US07723369B2
5-{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (592 mg, 1 mmol) was treated as described in general procedure G using 4-aminophenylboronic acid (274 mg, 2 mmol) to give 5-{4-[2-(4′-amino-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 1 mmol, 592 mg | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrCl2N4O3S
reactant | 4-aminophenylboronic acid | 2 mmol, 274 mg | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
product | 5-{4-[2-(4′-amino-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | NC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O | C30H23Cl2N5O3S
